US07074800B1
Using an analogous procedure to that described in Example 44, 4-chloro-6-methoxy-7-(3-pyrrolidin-1-ylpropoxy)quinazoline (100 mg, 0.3 mmol), (prepared as described for the starting material in Example 9), was reacted with 5-hydroxy-2-trifluoromethylindole (75 mg, 0.37 mmol), (prepared as described for the starting material in Example 44), to give 6-methoxy-7-(3-pyrrolidin-1-ylpropoxy)4-(2-trifluoromethylindol-5-yloxy)quinazoline (105 mg, 70%).

reactant | 4-chloro-6-methoxy-7-(3-pyrrolidin-1-ylpropoxy)quinazoline | 0.3 mmol, 100 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCC1 | C16H20ClN3O2
reactant | 5-hydroxy-2-trifluoromethylindole | 0.37 mmol, 75 mg | OC=1C=C2C=C(NC2=CC1)C(F)(F)F | C9H6F3NO
product | 6-methoxy-7-(3-pyrrolidin-1-ylpropoxy)4-(2-trifluoromethylindol-5-yloxy)quinazoline | 105 mg, 70% | COC=1C=C2C(=NC=NC2=CC1OCCCN1CCCC1)OC=1C=C2C=C(NC2=CC1)C(F)(F)F | C25H25F3N4O3
